US07572801B2
In analogy to the procedure described in example 78.4, 2,5-dichloro-N-[5-(4-fluoro-phenyl)-1-imino-pentyl]-nicotinamide was treated with KOtBu to obtain 6-chloro-2-[4-(4-fluoro-phenyl)-butyl]-3H-pyrido[2,3-d]pyrimidin-4-one as off-white crystals. MS: m/e=332.2 [M+H+].

reactant | 2,5-dichloro-N-[5-(4-fluoro-phenyl)-1-imino-pentyl]-nicotinamide | ClC1=C(C(=O)NC(CCCCC2=CC=C(C=C2)F)=N)C=C(C=N1)Cl | C17H16Cl2FN3O
reactant | KOtBu | CC(C)(C)[O-].[K+]
product | 6-chloro-2-[4-(4-fluoro-phenyl)-butyl]-3H-pyrido[2,3-d]pyrimidin-4-one | ClC1=CC2=C(N=C(NC2=O)CCCCC2=CC=C(C=C2)F)N=C1 | C17H15ClFN3O
